US04822888
A suspension of 4-nitrobenzyl- 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (anti isomer, 4.2 g.), 10% palladium carbon (1.7 g.), acetic acid (0.63 ml.), water (6.3 ml.), methanol (42 ml.), and tetrahydrofuran (84 ml.) was subjected to catalytic reduction in a hydrogen atmosphere at room temperature for 2 hours. After removing the catalyst by filtration, the filtrate was concentrated to a volume of about 15 ml. under reduced pressure. Water (30 ml.) and ethyl acetate (50 ml.) were added to the concentrated solution, and the solution was adjusted to pH 8.0 with sodium bicarbonate under stirring. The insoluble substance was removed by filtration, and the aqueous layer was separated and washed with ethyl acetate (50 ml.). The solution was treated with activated characoal, and adjusted to pH 2.2 with 10% hydrochloric acid under ice cooling. The precipitates were collected by filtration and washed with water to give 7-[2-(2 -formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (anti isomer, 2.52 g.).

reactant | 4-nitrobenzyl- 7-[2-(2-formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 4.2 g | [N+](=O)([O-])C1=CC=C(CC2S[C@H]3N(C(=C2)C(=O)[O-])C(C3NC(C(=NOC)C=3N=C(SC3)NC=O)=O)=O)C=C1
reactant | acetic acid | 0.63 ml | C(C)(=O)O | C2H4O2
reactant | water | 6.3 ml | O | H2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium carbon | 1.7 g | [C].[Pd]
solvent | tetrahydrofuran | 84 ml | O1CCCC1 | C4H8O
solvent | methanol | 42 ml | CO | CH4O
product | 7-[2-(2 -formamidothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 2.52 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C14H13N5O6S2
